US04250123
16.5 parts by weight of cyclohexene are added dropwise at +10° C. to a mixture of 31 parts by weight of 3-phenylpropyl chloride and 20 parts by weight of 96% strength sulfuric acid. Stirring is continued for 14 hours at room temperature. The crude product is dissolved in CHCl3 /ice water and the organic solution is thoroughly washed with ice water, dried over Na2CO3 and distilled. 27 parts by weight of 3-(4-cyclohexylphenyl)-propyl chloride are obtained; boiling point 126°-130° C./0.2 mm Hg, yield 57% (based on 3-phenylpropyl chloride).

reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | 3-phenylpropyl chloride | C1(=CC=CC=C1)CCCCl | C9H11Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-(4-cyclohexylphenyl)-propyl chloride | yield 57% | C1(CCCCC1)C1=CC=C(C=C1)CCCCl | C15H21Cl
